US05102667
(3aRS,7aRS)-7,7-diphenyl-2-vinyloxycarbonyl-4-perhydroisoindolone (177 g) is treated with a 5.7N solution (1,000 cc) of hydrochloric acid in dry dioxane for 30 minutes at 20° C. The solution is concentrated to dryness under reduced pressure (2.7 kPa) and the residue is taken up in ethanol (500 cc) and the reaction mixture is stirred at 60° C. for 30 minutes and then cooled to +5° C. The crystals obtained are drained, washed with ethanol (50 cc) and dried. (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride (130 g) melting at 270° C. is obtained.

reactant | (3aRS,7aRS)-7,7-diphenyl-2-vinyloxycarbonyl-4-perhydroisoindolone | 177 g | C1(=CC=CC=C1)C1(CCC(C2CN(CC12)C(=O)OC=C)=O)C1=CC=CC=C1 | C23H23NO3
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (3aRS,7aRS)-7,7-diphenyl-4-perhydroisoindolone hydrochloride | 130 g | Cl.C1(=CC=CC=C1)C1(CCC(C2CNCC12)=O)C1=CC=CC=C1 | InChI=1S/C20H21NO.ClH/c22-19-11-12-20(15-7-3-1-4-8-15,16-9-5-2-6-10-16)18-14-21-13-17(18)19;/h1-10,17-18,21H,11-14H2;1H
